US09259470B2
Diphenylphosphoryl azide (“DPPA”) (0.97 g, 3.5 mmol) and triethylamine (384 mg, 3.80 mmol) were added to a solution of 3-oxo-2-oxa-bicyclo[2.2.1]heptane-5-carboxylic acid (0.50 g, 3.2 mmol; prepared according to WO 2008/092955) in dry toluene (5.0 mL). The resulting mixture was stirred at 100° C. under nitrogen atmosphere. After adding phenylmethanol (354 mg, 3.50 mmol), the mixture was stirred at 130° C. for another 2 hours. After being quenched with water (1 mL), the mixture was diluted with ethyl acetate (300 mL), washed with saturated brine (3×50 mL), dried over anhydrous sodium sulfate, and then concentrated. The residue was purified by silica gel chromatography eluting with petroleum ether/ethyl acetate (4:1) to give benzyl 3-oxo-2-oxa-bicyclo[2.2.1]heptan-5-ylcarbamate (600 mg, 72% yield) as a solid. 1H NMR (500 MHz, CDCl3) δ 7.80-7.74 (m, 1H), 7.39-7.31 (m, 5H), 5.08-5.00 (m, 3H), 3.87 (s, 1H), 2.78 (s, 1H), 2.24-2.15 (m, 1H), 2.14 (d, J=9.0 Hz, 1H), 1.97 (t, J=20.5 Hz, 1H), 1.71 (d, J=14.0 Hz, 1H).

reactant | Diphenylphosphoryl azide | 3.5 mmol, 0.97 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 3.80 mmol, 384 mg | C(C)N(CC)CC | C6H15N
reactant | 3-oxo-2-oxa-bicyclo[2.2.1]heptane-5-carboxylic acid | 3.2 mmol, 0.50 g | O=C1OC2CC(C1C2)C(=O)O | C7H8O4
reactant | phenylmethanol | 3.50 mmol, 354 mg | C1(=CC=CC=C1)CO | C7H8O
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
product | benzyl 3-oxo-2-oxa-bicyclo[2.2.1]heptan-5-ylcarbamate | 600 mg, 72% yield | O=C1OC2CC(C1C2)NC(OCC2=CC=CC=C2)=O | C14H15NO4
